* D:\github-stuff\STM32-Li-ion-charger-dischager-LCD\spice_simulation\Internal_Resistance_AC_Method.asc
Rk N008 S1 5
C1 N009 N008 4.7µ
V1 S1 0 SINE(1 1 1k)
V2 N009 0 4 Rser=0.5
V3 15V 0 15
XU6 0 N001 15V 0 N003 LT1001
D6 N002 N003 1N5817
D7 N003 N001 1N5817
R9 N002 N001 10k
V6 N004 0 SINE(0 1 1k)
R17 N007 0 50k
R18 N001 N004 10k
XU7 0 N005 15V 0 N006 LT1001
R19 N005 N002 5k
R20 N006 N005 10k
R21 N005 N004 10k
C5 N007 0 4.7µ
R22 N007 N006 1k
C2 S2 N009 4.7µ
XU1 0 N010 15V -15V S3 LT1001
V4 0 -15V 3
R1 N010 S2 1k
R2 S3 N010 50k
C3 S4 S3 4.7µ
V5 N011 0 1 Rser=0
D1 N011 S4 1N5817
.model D D
.lib C:\Users\robert_alfred.kecs\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 50m 0 100n
* Rint=Vs2 X Rk / ( Vs1-Vs2)    ALL RMS
* precision full bridge rectifier
.lib LTC.lib
.backanno
.end
